US05929074
3-(4-Methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamine
A mixture comprising 3.26 g of N-benzyloxycarbonyl-3-(4-methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamine, 0.5 g of 5% palladium carbon and 70 ml of ethanol, was stirred at 60° C. for 6 hours in a hydrogen atmosphere and further at room temperature overnight. Palladium carbon was filtered off, and then the filtrate was distilled off under reduced pressure to obtain 2.45 g of the above-identified compound as slightly brown oil.

reactant | N-benzyloxycarbonyl-3-(4-methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamine | 3.26 g | C(C1=CC=CC=C1)OC(=O)N(CC1=CC(=C(C=C1)OC)N1CCN(CC1)C)OC=C=O | C23H27N3O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.5 g | [C].[Pd]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-(4-Methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamine | 2.45 g | CN1CCN(CC1)C=1C=C(CNOC=C=O)C=CC1OC | C15H21N3O3
